US07888362B2
A solution of 1.22 g (3.7 mmol) of tert-butyl 4-benzo[b]thiophen-4-yl-3-methylpiperazin-1-carboxylate in methylene chloride (12 ml) was added to trifluoroacetic acid (6 ml), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, then an aqueous solution of 5% potassium carbonate was added to the residue and the resulting mixture was extracted with methylene chloride. The organic phase was dried over magnesium sulfate and concentrated under reduced pressure. Concentrated hydrochloric acid (6 ml) and methanol (10 ml) were added to the residue and the resulting mixture was concentrated under reduced pressure. The residue was recrystallized from acetonitrile to obtain 1-benzo[b]thiophen-4-yl-2-methylpiperazine dihydrochloride (0.98 g) as light brown powder.

reactant | tert-butyl 4-benzo[b]thiophen-4-yl-3-methylpiperazin-1-carboxylate | 3.7 mmol, 1.22 g | S1C2=C(C=C1)C(=CC=C2)N2C(CN(CC2)C(=O)OC(C)(C)C)C | C18H24N2O2S
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 1-benzo[b]thiophen-4-yl-2-methylpiperazine dihydrochloride | 0.98 g | Cl.Cl.S1C2=C(C=C1)C(=CC=C2)N2C(CNCC2)C | InChI=1S/C13H16N2S.2ClH/c1-10-9-14-6-7-15(10)12-3-2-4-13-11(12)5-8-16-13;;/h2-5,8,10,14H,6-7,9H2,1H3;2*1H
